US08440700B2
2-(4-Chlorophenyl)-5-ethyl-4-methyl-1,3-oxazole 3-oxide
1.00 g (8.69 mmol) of 2,3-pentanedione 2-oxime and 1.34 g (9.55 mmol) of 4-chlorobenzaldehyde are initially charged in 2 ml (34.94 mmol) of glacial acetic acid. With ice-cooling of the reaction mixture, hydrogen chloride gas is then introduced for 30 min. 10 ml of diethyl ether are then added to the reaction mixture. A precipitate is formed, which is filtered off with suction and washed twice with in each case 2 ml of diethyl ether. The precipitate is resuspended in about 5 ml of water, and the suspension is made basic using ammonia. The suspension is then extracted four times with in each case 10 ml of dichloromethane. The combined organic phases are dried over magnesium sulfate and the solvent is removed on a rotary evaporator. The residue is used without further purification in the subsequent reaction.

reactant | 2,3-pentanedione 2-oxime | 8.69 mmol, 1.00 g | CC(C(CC)=O)=NO | C5H9NO2
reactant | 4-chlorobenzaldehyde | 9.55 mmol, 1.34 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | acetic acid | 34.94 mmol, 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-(4-Chlorophenyl)-5-ethyl-4-methyl-1,3-oxazole 3-oxide | ClC1=CC=C(C=C1)C=1OC(=C([N+]1[O-])C)CC | C12H12ClNO2
